US08486970B2
To a mixture of 538 mg of (3RS,4RS)-2-{(1SR,2SR)-2-aminocyclohexyl}-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide and 2.5 ml of pyridine was added 0.15 ml of methanesulfonyl chloride, followed by stifling at room temperature for 6 hours. Ethyl acetate and water were added thereto to carry out a liquid separation operation, and the organic layer was washed with a 1 M aqueous hydrochloric acid solution and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform) and then recrystallized from ethyl acetate-hexane to obtain 206 mg of (3RS,4RS)-N-(benzyloxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino] cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless powdered crystal.

reactant | (3RS,4RS)-2-{(1SR,2SR)-2-aminocyclohexyl}-N-(benzyloxy)-3-(2,4-dichlorophenyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 538 mg | NC1C(CCCC1)N1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)NOCC1=CC=CC=C1)=O | C29H29Cl2N3O3
reactant | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.15 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (3RS,4RS)-N-(benzyloxy)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino] cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 206 mg | C(C1=CC=CC=C1)ONC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C30H31Cl2N3O5S
